US20010056212A1
In a 500-mL autoclave were added 100 g of the resulting octadienyl glyceryl ether and 5 g of 5% Pd—C (product of NE Chemcat Corporation). The mixture was stirred at 25 to 70° C. for 6 hours under a hydrogen atmosphere of a pressure of 1 to 5 MPa. After completion of the reaction, the catalyst was filtered off, whereby 102 g of octyl glyceryl ether was obtained as a colorless transparent oil. Gas chromatography(GC) analysis showed that the monooctyl glyceryl ether content was 99%, and the dioctyl glyceryl ether content was 1% or less.

reactant | octadienyl glyceryl ether | 100 g | C(C(O)CO)OC=CC=CCCCC | C11H20O3
catalyst | Pd—C | 5 g | [Pd] | Pd
product | octyl glyceryl ether | 102 g | C(C(O)CO)OCCCCCCCC | C11H24O3
